US08258169B2
To a stirred solution of O-methyl-N-[3-(2,4,6-trichloro-phenyl)-propyl]-hydroxylamine (0.35 g, 1.3 mmol) prepared as described in example P24c in dichloromethane (5 ml), triethylamine (0.55 ml, 3.9 mmol) and a solution of 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride acid in dichloromethane (2 ml) was added slowly at a temperature of 0° C. After complete addition of the acid chloride the mixture was stirred at ambient temperature for the next 3 hours. When the TLC confirmed the completion of the reaction, the reaction mass was diluted with water and extracted with dichloromethane (3×60 ml). The combined dichloromethane layer was washed with 2N HCl followed by saturated NaHCO3 solution, water and finally brine. The organic layer was then dried over anhydrous sodium sulphate and concentrated under reduced pressure. The resulting crude mass was purified over column chromatography (silica gel 60-120 mesh, 26% ethylacetate in hexane) to afford 3-Difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid methoxy-[3-(2,4,6-trichloro-phenyl)-propyl]-amide (0.5 g, 91%) as white crystalline solid. m.p-95-96° C.

reactant | O-methyl-N-[3-(2,4,6-trichloro-phenyl)-propyl]-hydroxylamine | 1.3 mmol, 0.35 g | CONCCCC1=C(C=C(C=C1Cl)Cl)Cl | C10H12Cl3NO
reactant | triethylamine | 3.9 mmol, 0.55 ml | C(C)N(CC)CC | C6H15N
reactant | 3-difluoromethyl-1-methyl-1H-pyrazole-4-carbonyl chloride | FC(C1=NN(C=C1C(=O)Cl)C)F | C6H5ClF2N2O
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3-Difluoromethyl-1-methyl-1H-pyrazole-4-carboxylic acid methoxy-[3-(2,4,6-trichloro-phenyl)-propyl]-amide | 0.5 g, 91% | CON(C(=O)C=1C(=NN(C1)C)C(F)F)CCCC1=C(C=C(C=C1Cl)Cl)Cl | C16H16Cl3F2N3O2
